US07683091B2
To N-[1-(4-tert-butyl-benzyl)-1H-indol-5-yl]-benzenesulfonamide (0.20 g, 0.48 mmol) in DMF (5 ml) at room temperature under a nitrogen atmosphere was added sodium hydride (60% dispersion in mineral oil, 0.03 g, 0.72 mmol) in one portion. The resulting brown mixture was stirred 10 minutes upon which bromo-acetic acid methyl ester was added (0.19 g, 0.96 mmol). After 90 minutes total reaction time, the reaction was quenched with water (2 ml). The brown solution was partitioned between EtOAc (15 ml) and H2O (10 ml) and the layers were separated. The aqueous layer was extracted with EtOAc (5 ml). All organics were combined, extracted with brine (3×10 ml), dried with MgSO4, filtered and concentrated in vacuo to afford a brown powder. Gradient SiO2 chromatography (Hexane:EtOAc) afforded {benzenesulfonyl-[1-(4-tert-butyl-benzyl)-1H-indol-5-yl]-amino}-acetic acid methyl ester as a pale red powder (0.18 g, 72% yield): MS (ESI) m/z 533.

reactant | N-[1-(4-tert-butyl-benzyl)-1H-indol-5-yl]-benzenesulfonamide | 0.48 mmol, 0.20 g | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC(=CC=C23)NS(=O)(=O)C2=CC=CC=C2)C=C1 | C25H26N2O2S
reactant | sodium hydride | 0.72 mmol, 0.03 g | [H-].[Na+]
reactant | bromo-acetic acid methyl ester | COC(CBr)=O | C3H5BrO2
reactant | Hexane | CCCCCC | C6H14
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {benzenesulfonyl-[1-(4-tert-butyl-benzyl)-1H-indol-5-yl]-amino}-acetic acid methyl ester | 0.18 g, 72% yield | COC(CN(C=1C=C2C=CN(C2=CC1)CC1=CC=C(C=C1)C(C)(C)C)S(=O)(=O)C1=CC=CC=C1)=O | C28H30N2O4S
